US08030337B2
4-Bromophenyl Acrylate
To a solution of 4-bromophenol (15.1 g, 87.3 mmol) in tetrahydrofuran (170 mL) was added 60% sodium hydride (3.68 g, 91.6 mmol) under ice-cooling and the mixture was stirred for 15 min. A solution of acryloyl chloride (8.3 g, 91.6 mmol) in tetrahydrofuran (50 mL) was added, and the mixture was stirred for 15 min under ice-cooling. Water was added, and the solvent was evaporated under reduced pressure. The residue was extracted with ethyl acetate, washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80) to give the title compound (18.1 g, yield 100%).

reactant | 4-bromophenol | 87.3 mmol, 15.1 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium hydride | 91.6 mmol, 3.68 g | [H-].[Na+]
reactant | acryloyl chloride | 91.6 mmol, 8.3 g | C(C=C)(=O)Cl | C3H3ClO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-Bromophenyl Acrylate | 18.1 g, yield 100% | C(C=C)(=O)OC1=CC=C(C=C1)Br | C9H7BrO2
